US03950339
2-[4-(1,3-Benzodioxol-4-Ylmethylamino)-6-Methyl-2-Pyrimidinylthio]Acetamidoxime
A mixture of 6.20 g. (0.02 mole) of (4-methyl-6-piperonylamino-2-pyrimidinylthio)acetonitrile, 2.76 g. (0.04 mole) of hydroxylamine hydrochloride and 8.48 g. (0.08 mole) of sodium carbonate in 100 ml of N,N-dimethylformamide was heated on a steam bath for four hours. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was triturated with ether and the insoluble material was collected and recrystallized from a mixture of ethanol-N,N-dimethylacetamide to give 3.5 g. of product, m.p. 190°-192° dec.

reactant | (4-methyl-6-piperonylamino-2-pyrimidinylthio)acetonitrile | 0.02 mole | CC1=NC(=NC(=C1)NCC1=CC=2OCOC2C=C1)SCC#N | C15H14N4O2S
reactant | hydroxylamine hydrochloride | 0.04 mole | Cl.NO
reactant | sodium carbonate | 0.08 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-[4-(1,3-Benzodioxol-4-Ylmethylamino)-6-Methyl-2-Pyrimidinylthio]Acetamidoxime | O1COC2=C1C=CC=C2CNC2=NC(=NC(=C2)C)SCC(N)=NO | C15H17N5O3S
